chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Cl:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[F-:2]>>[Cl-:1].[F:2][C@@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23],26.76061225776217
[Br:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[C:4](=[C:5](/[N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24])(\[N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43].[F:2][H:3],4.798837168712051
[F:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[F-:1].[H:2][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],32.38306958012017
[Cl:1][C:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22].[F-:2]>>[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([H:31])[N:41]([H:42])[H:43].[Cl-:1].[F:2][H:3],4.619159776082411
[Br:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]#[N:12])[H:21].[F-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]#[N:12])[H:21])(\[C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43].[F:2][H:3],16.07733259445502
[F:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],48.415709533803216
[Br-:2].[Br:1][C@:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([H:11])[C:21]#[N:22]>>[Br-:1].[Br:2][H:3].[C:4](=[C:5](/[H:11])[C:21]#[N:22])(\[H:31])[C:41]#[N:42],24.785823033223235
[Br:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([H:11])[N+:21]([O-:22])[O:23].[F-:2]>>[Br-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([H:11])[N+:21]([O-:22])[O:23],8.148025760547915
[F:1][C:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5]([N+:11]([O-:12])[O:13])[N+:21]([O-:22])[O:23])([H:31])[N:41]([H:42])[H:43].[F-:1].[H:2][H:3],8.393486921553176
[F:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[F-:1].[H:2][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],36.66121133209968
[F-:2].[F:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22]>>[F-:1].[F:2][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22],28.83919598757
[Br:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([C:11]#[N:12])[N:21]([H:22])[H:23].[Cl-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]#[N:12])[N:21]([H:22])[H:23])(\[C:31]([H:32])([H:33])[H:34])[C:41]#[N:42].[Cl:2][H:3],24.04103596998424
[F:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([C:11]#[N:12])[H:21].[H-:2]>>[C:4](=[C:5](/[C:11]#[N:12])[H:21])(\[N:31]([H:32])[H:33])[H:41].[F-:1].[H:2][H:3],10.656159052943329
[Br:1][C:5]([C:4]([H:3])([H:31])[H:41])([H:11])[H:21].[H-:2]>>[Br-:1].[C:4](=[C:5]([H:11])[H:21])([H:31])[H:41].[H:2][H:3],7.923067995905724
[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[C:4](=[C:5]([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl-:1].[H:2][H:3],12.70887139894529
[F:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5]([N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[F-:1].[H:2][H:3],15.600818917981345
[Cl:1][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[Cl-:1].[H:2][H:3],7.634453215231332
[Cl-:2].[Cl:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24]>>[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl-:1].[Cl:2][H:3],30.90936467273
[Cl:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[H-:2]>>[C:4](=[C:5]([H:11])[H:21])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44].[Cl-:1].[H:2][H:3],5.773545037012099
[Cl:1][C:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[C:4](=[C:5]([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24])([H:31])[H:41].[Cl-:1].[F:2][H:3],8.124644484030103
[F:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[H-:2]>>[F-:1].[H:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22],17.700553754152782
